US04259333
A. N-Formyl-4-(3-aminopropyl)-piperidine hydrochloride
To a suspension of 10% palladium-on-carbon catalyst (3 g) in water (100 ml), a solution of N-formyl-4-(3-azidopropyl)-piperidine (19.6 g) in ethyl acetate (100 ml) was added. Hydrogen was passed through the mixture, and the pH was maintained at 3.0 by simultaneous addition of 1 N hydrochloric acid. When the consumption of acid ceased, the catalyst was filtered off, and the two layers separated. The aqueous phase was extracted twice with 25 ml portions of ethyl acetate, and thereafter evaporated to dryness in vacuo. The residue was dissolved in propanol-2, filtered, and the filtrate taken to dryness. The residue was treated with acetonitrile, and the crystals were filtered off and washed with acetonitrile followed by ether to give the title compound with m.p. 141°-143° C.

reactant | N-formyl-4-(3-azidopropyl)-piperidine | 19.6 g | C(=O)N1CCC(CC1)CCCN=[N+]=[N-] | C9H16N4O
reactant | Hydrogen | [H][H] | H2
reactant | hydrochloric acid | 1 N | Cl | ClH
catalyst | palladium-on-carbon | 3 g | [Pd] | Pd
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-Formyl-4-(3-aminopropyl)-piperidine hydrochloride | Cl.C(=O)N1CCC(CC1)CCCN | InChI=1S/C9H18N2O.ClH/c10-5-1-2-9-3-6-11(8-12)7-4-9;/h8-9H,1-7,10H2;1H
